US08445684B2
To a suspension of lithium aluminum hydride (60 mg, 1.59 mmol, 5.0 equiv.) in THF (5 mL) was added a solution of 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[(2(S)-pyrrolidinyl)methoxy]pyridine (156 mg, 0.32 mmol) in THF (1 mL). The mixture was refluxed for 1.5 h and then cooled to room temperature. To a flask containing 4-5 g of Na2SO4 was added with stirring 40-50 mL of ether followed by the cooled reaction mixture. Water was subsequently added dropwise to quench residual hydride. When no more gas was generated, the mixture was filtered, and the solid phase was washed with CH2Cl2/MeOH 4:1 (100-150 mL). Solvent removal furnished crude 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[(1-methyl-2(S)-pyrrolidinyl)methoxy]pyridine (106 mg, 81%), which could be used in the following step without further purification.

reactant | lithium aluminum hydride | 1.59 mmol, 60 mg, 5.0 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[(2(S)-pyrrolidinyl)methoxy]pyridine | 0.32 mmol, 156 mg | C(C1=CC=CC=C1)OCCC1CCN(CC1)C=1C=NC=C(C1)OC[C@H]1NCCC1 | C24H33N3O2
reactant | Na2SO4 | 4-5 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | ether | 40-50 mL | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 3-[4-[2-(benzyloxy)ethyl]-1-piperidinyl]-5-[(1-methyl-2(S)-pyrrolidinyl)methoxy]pyridine | 106 mg, 81% | C(C1=CC=CC=C1)OCCC1CCN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CCC1)C | C25H35N3O2
